US05556861
7-Fluoro-1-methyl-8-(3-methyl-3-dimethylamino-1-azetidinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid was prepared under the conditions described in Example 15, but starting with 1.45 g of 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 2.45 g of 3-methyl-3-(dimethylamino)azetidine dimethanesulphonate. 1.56 g of 7-fluoro-1-methyl-8-(3-methyl-3-dimethylamino-1-azetidinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a yellow solid, which decomposes at 274° C.

reactant | 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.45 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1F | C14H8F2N2O3
reactant | 3-methyl-3-(dimethylamino)azetidine dimethanesulphonate | 2.45 g | CS(=O)(=O)O.CS(=O)(=O)O.CC1(CNC1)N(C)C
product | 7-fluoro-1-methyl-8-(3-methyl-3-dimethylamino-1-azetidinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.56 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1N1CC(C1)(N(C)C)C | C20H21FN4O3
